US09212155B2
To a chilled (0° C.) solution of lithium bis(trimethylsilyl)amide (1.0 M, 50 mL) was dropwise added a solution of trimethylphosphonoacetate, keeping the temperature below 10° C. The solution was then allowed to warm to room temperature and stirred for an additional five minutes, after which a solution of 4′-(trifluoromethyl)propiophenone in THF (25 mL) was added in one portion. The solution was slowly heated to 50° C. for eight hours. The solution was cooled to room temperature, then diluted with a 10% NH4Cl solution (100 mL), and extracted with ethyl acetate (2×100 mL). The organic layers were combined and dried over MgSO4, filtered, and the filtrate concentrated to a white solid which was recrystallized from hexane/ethyl acetate to give 5.42 grams of 3-(4-trifluoromethylphenyl)pent-2-enoic acid methyl ester intermediate (85% yield).

reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 50 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trimethylphosphonoacetate | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 4′-(trifluoromethyl)propiophenone | FC(C1=CC=C(C=C1)C(CC)=O)(F)F | C10H9F3O
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 100 mL | [NH4+].[Cl-]
product | 3-(4-trifluoromethylphenyl)pent-2-enoic acid methyl ester | 5.42 grams, 85% yield | COC(C=C(CC)C1=CC=C(C=C1)C(F)(F)F)=O | C13H13F3O2
